US07902356B2
2,2,6,6-Tetramethymorpholine
Dissolve 4-benzyl-2,2,6,6-tetramethylmorpholine (Bennett, G. B.; Houlihan, W. J.; Mason, R. B.; Engstrom, R. G. J. Med. Chem. 1976, 19, 709-714) (11.0 g, 47.1 mmol) in EtOH (650 mL) and add 3% Pd/C (8.61 g). Shake the mixture under hydrogen (60 psi) at 40° C. for 24 h. Filter the mixture to remove Pd catalyst, and treat the filtrate with 2M HCl in ether, then concentrate. Dry the residue at 80° C. under vacuum to give the title compound (6.79 g) as a white solid. 1H NMR (DMSO-d6, 400 MHz) δ 9.8 (2H, br s), 2.88 (4H, s), 1.25 (12H, s).

reactant | 4-benzyl-2,2,6,6-tetramethylmorpholine | 47.1 mmol, 11.0 g | C(C1=CC=CC=C1)N1CC(OC(C1)(C)C)(C)C | C15H23NO
solvent | EtOH | 650 mL | CCO | C2H6O
catalyst | Pd/C | 8.61 g | [Pd] | Pd
product | 2,2,6,6-Tetramethymorpholine | 6.79 g | CC1(CNCC(O1)(C)C)C | C8H17NO
